US08710245B2
(e) Synthesis of (E)-2-bromo-3-(2-nitrovinyl)thiophene
To a solution of 1-(2-bromothiophen-3-yl)-2-nitroethanol (3 g, 12.0 mmol), DMAP (146 mg, 1.2 mmol) and Et3N (2.4 g, 24.0 mmol) in DCM (30 mL) was added MsCl (2.4 g, 24.0 mmol) dropwise. The resulting mixture was then refluxed for 3 h. After cooling, the reaction mixture was diluted with water and extracted with DCM. The combined organic layers were washed with brine and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (2.5 g, 88%).

reactant | 1-(2-bromothiophen-3-yl)-2-nitroethanol | 12.0 mmol, 3 g | BrC=1SC=CC1C(C[N+](=O)[O-])O | C6H6BrNO3S
reactant | Et3N | 24.0 mmol, 2.4 g | CCN(CC)CC | C6H15N
reactant | MsCl | 24.0 mmol, 2.4 g | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | 1.2 mmol, 146 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (E)-2-bromo-3-(2-nitrovinyl)thiophene | 2.5 g, 88% | BrC=1SC=CC1\C=C\[N+](=O)[O-] | C6H4BrNO2S
